US06680328B2
2-Bromo-6-methoxyethoxynaphthol
Sodium hydride (60%, 5.3 g, 134 mmol) was added in small portions to a mixture of 6-bromo-2-naphthol (25.0 g, 112 mmol), 2-bromoethylmethylether (17.1 g, 123 mmol) and dimethylformamide (150 ml). The mixture was stirred at room temperature for 5 h. Aqueous sodium hydroxide (200 ml, 1 M) was added, and the mixture was allowed to stir overnight. The crystals were filtered. Yield 28.2 g, 89%. Mp 54-55° C.

reactant | Sodium hydride | 134 mmol, 5.3 g | [H-].[Na+]
reactant | 6-bromo-2-naphthol | 112 mmol, 25.0 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | 2-bromoethylmethylether | 123 mmol, 17.1 g | BrCCOC | C3H7BrO
reactant | sodium hydroxide | 1 M, 200 ml | [OH-].[Na+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-Bromo-6-methoxyethoxynaphthol | BrC1=C(C2=CC=C(C=C2C=C1)OCCOC)O | C13H13BrO3
